US06100257
Then, 15.1 g of 4-chloro-2-fluorophenylacetonitrile was dissolved in 150 ml of ethanol, to which 10 ml of suiliric acid was added, and the mixture was heated under reflux for 65 hours. After completion of the reaction, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried, and concentrated. The residue was subjected to silica gel column chromatography, which afforded 17.8 g of ethyl 4-chloro-2-fluorophenylacetate.

reactant | 4-chloro-2-fluorophenylacetonitrile | 15.1 g | ClC1=CC(=C(C=C1)CC#N)F | C8H5ClFN
reactant | water | O | H2O
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 4-chloro-2-fluorophenylacetate | 17.8 g | ClC1=CC(=C(C=C1)CC(=O)OCC)F | C10H10ClFO2
